US04788206
As in Example 115, (E)-5,5-bis(4-methoxyphenyl)-2,4-pentadienoic acid (21.0 g) and 4-nitrophenol (11.2 g) in dichloromethane (300 mL) was treated with 1,3-dicyclohexylcarbodiimide (14 g). The mixture was stirred at 0°-5° C. for 1 hour, then at room temperature overnight. After the usual work up, the crude product was crystallized from ether-hexane to give 24.7 g of (E)-5,5-bis (4-methoxyphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester mp 121°-123° C. Recrystallization of the material from 2-propanol afforded the purified ester, mp 125°-126° C. Anal. Calculated for C25H21NO6 : C, 69.60; H, 4.91; N, 3.23 Found: C, 69.19; H, 4.94; N, 3.25

reactant | (E)-5,5-bis(4-methoxyphenyl)-2,4-pentadienoic acid | 21.0 g | COC1=CC=C(C=C1)C(=C/C=C/C(=O)O)C1=CC=C(C=C1)OC | C19H18O4
reactant | 4-nitrophenol | 11.2 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 14 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | (E)-5,5-bis (4-methoxyphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester | 24.7 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)=O | C25H21NO6
